US08232278B2
Synthesis of 2-amino-4-(cyclopropylmethyloxy)-6-(4-fluorophenyl)pyrido[3,2-d]pyrimidine
To a solution of 2-acetamido-4-(1,2,4-triazolyl)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine (52 mg, 0.15 mmol) in cyclopropylmethanol (1 ml) and dioxane (3 ml) was added NaH (60% dispersion in mineral oil, 0.25 mmol, 15 mg). The reaction mixture was stirred overnight at room temperature. The solvents were evaporated in vacuo, and the residue was purified by preparative TLC, the mobile phase being a methanol/dichloromethane mixture in a ratio of 10:90, yielding the pure title compound (22 mg, yield: 47%) which was characterised as follows: MS (m/z): 311 ([M+H]+, 100).

reactant | 2-acetamido-4-(1,2,4-triazolyl)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | 0.15 mmol, 52 mg | C(C)(=O)NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)C2=NNC=N2 | C17H12FN7O
reactant | NaH | 0.25 mmol, 15 mg | [H-].[Na+]
reactant | cyclopropylmethanol | 1 ml | C1(CC1)CO | C4H8O
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 2-amino-4-(cyclopropylmethyloxy)-6-(4-fluorophenyl)pyrido[3,2-d]pyrimidine | 22 mg, yield: 47% | NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)OCC2CC2 | C17H15FN4O
